US07173048B2
A solution of 1 g (2.1 mmol) of 1-benzyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indole in 7 mL DMF was treated portionwise at 0° C. with 1.94 g (8.6 mmol) of NIS and stirred for 2 hrs at 65° C. The mixture was poured into a mixture of a saturated aqueous solution of NH4Cl containing NaS2O3 and Et2O. The phases were separated and the aqueous one was extracted with Et2O. The combined organic phases were dried over Na2SO4 and evaporated to yield 1.1 g (72%) of 1-benzyl-3-iodo-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indole, of which 50 mg were dissolved in 1 mL of MeOH and treated with 0.2 mL of 2M NaOMe in MeOH. After stirring for 30 min at RT, the crude mixture was distributed between aqueous HCl and Et2O. The combined organic phases were dried over Na2SO4 and evaporated. Column chromatography on silica gel with n-heptane/EtOAc 4:1 yielded 30 mg of 2-(1-benzyl-3-iodo-1H-indol-5-yl)-1,1,1,3,3,3-hexafluoro-propan-2-ol, light brown solid, MS 498 (M−H)−.

reactant | 1-benzyl-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indole | 2.1 mmol, 1 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC | C24H27F6NOSi
reactant | NIS | 8.6 mmol, 1.94 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | Et2O | CCOCC | C4H10O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-3-iodo-5-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-1H-indole | 1.1 g, 72% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC)I | C24H26F6INOSi
